US06262103B1
Step 1: 1-Cyano-6,6-dimethyl-3-isopropyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
In the same way as described in Example 6, Step 1, using isopropylmagnesium chloride and 1-cyano-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one, the title compound (1.2 g, 36%) was isolated as a colourless solid. mp 59-60° C. Found: C, 68.08; H, 6.97; N, 5.48%. C14H17NOS requires: C, 67.98; H, 6.93; N, 5.66%. 1HNMR (360 MHz, CDCl3) δ 1.08 (6H, s), 1.32 (6H, d, J=6.7 Hz), 2.43 (2H, s), 2.85 (2H, s), 4.24 (1H, heptet, J=6.7 Hz).

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 1-cyano-6,6-dimethyl-3-methylthio-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)SC | C12H13NOS2
product | 1-Cyano-6,6-dimethyl-3-isopropyl-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 1.2 g, 36% | C(#N)C=1SC(=C2C1CC(CC2=O)(C)C)C(C)C | C14H17NOS
